US04371536
1.3 mmoles of 6-amino-β-carbolin-3-carboxylic acid ethyl ester are diazotized at 0° C. in 4 ml of semi-concentrated hydrochloric acid with 1.3 mmoles of sodium nitrite in 2 ml of water. 1.35 mmoles of potassium iodide in 2 ml of water are added to this mixture. The mixture is then slowly heated to 100° C. until the nitrogen evolution has ceased. The mixture is then diluted with 100 ml of water, approximately 20 mg of sodium thiosulphate are added and the mixture is filtered with suction. The residue is extracted by boiling with methylene chloride/acetone, filtered, and the filtrate is concentrated by evaporation. The residue is chromatographed on silica gel with chloroform/ethanol (9:1). 6-Iodo-β-carbolin-3-carboxylic acid ethyl ester of melting point 286°-287° C. (decomposition) is thereupon obtained in 30% yield.

reactant | 6-amino-β-carbolin-3-carboxylic acid ethyl ester | 1.3 mmoles | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)N | C14H13N3O2
reactant | sodium nitrite | 1.3 mmoles | N(=O)[O-].[Na+]
reactant | potassium iodide | 1.35 mmoles | [I-].[K+]
reactant | sodium thiosulphate | approximately 20 mg | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 6-Iodo-β-carbolin-3-carboxylic acid ethyl ester | 30% yield | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)I | C14H11IN2O2
